US05290856
polyundecanolactam (nylon 11)
as well as polyamides resulting from terephthalic acid and/or isophthalic acid and trimethyl hexamethylene diamine, polyamides resulting from adipic acid and meta xylylenediamines, polyamides resulting from adipic acid, azelaic acid and 2,2-bis(p-aminocyclohexyl)propane and polyamides resulting from terephthalic acid and 4,4'-diamino-dicyclohexylmethane.

reactant | terephthalic acid | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
reactant | isophthalic acid | C(C1=CC(C(=O)O)=CC=C1)(=O)O | C8H6O4
reactant | trimethyl hexamethylene diamine | CNCCCCCCN(C)C | C9H22N2
reactant | adipic acid | C(CCCCC(=O)O)(=O)O | C6H10O4
reactant | azelaic acid | C(CCCCCCCC(=O)O)(=O)O | C9H16O4
reactant | 2,2-bis(p-aminocyclohexyl)propane | NC1CCC(CC1)C(C)(C)C1CCC(CC1)N | C15H30N2
product | polyundecanolactam | C(CCCCCN)CCCCC(=O)O | C11H23NO2
